US04093598
180 g (0.625 mol) of phenylbenzoin was added to a 3 liter, one necked, round bottomed flask fitted with a reflux condenser and a nitrogen bypass. 1.45 liters of methanol was added to dissolve the phenylbenzoin and free hydroxylamine was prepared by treating 177.9 g. (2.56 moles) hydroxylamine hydrochloride with 209.9 g (2.56 moles) of sodium acetate in water. The resultant solution was added to the phenylbenzoin and the reaction mixture was stirred for 48 hours at reflux at which time an additional 1.24 moles of hydroxylamine was added. The solution was cooled and filtered. The solids were then placed in a Soxhlet extractor and treated with refluxing hexane. After 72 hours the solid remaining in the extraction thimble was collected to yield 40% of the theoretical yield of pure alpha-phenylbenzoin oxime, m.p. 150°-52° C. (lit. 153.5). The hexane extract can be concentrated to yield unreacted phenylbenzoin (50% of theory) which may be recycled to afford additional phenylbenzoin oxime. This material was employed to polymerize 2,6 -xylenol using the following composition:

reactant | phenylbenzoin | 0.625 mol, 180 g | C1(=CC=CC=C1)C1=C(C=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C20H16O2
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | 2.56 moles | Cl.NO
reactant | sodium acetate | 2.56 moles, 209.9 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine | 1.24 moles | NO | H3NO
solvent | water | O | H2O
solvent | methanol | 1.45 liters | CO | CH4O
product | alpha-phenylbenzoin oxime | 40% | C1(=CC=CC=C1)C(C(C1=CC=CC=C1)=NO)(O)C1=CC=CC=C1 | C20H17NO2
